US07741323B2
(Step 1) Preparation of 3-phenyl-6-(3-phenylpropyloxy)-1-oxo-1H-indene-2-carboxylate methyl ester
3-Phenyl-6-(3-phenylpropyloxy)-1-oxo-1H-indene-2-carboxylate ethyl ester (1.65 g, 4.0 mmol) prepared in (Step 5) of Example 1 was dissolved in methanol (160 ml) and p-toluene sulfonic acid (228 mg, 1.2 mmol) was added thereto. The mixture was reacted for 1 hour at 70° C., and then washed with brine. The organic layer was extracted with ethyl acetate, dried over anhydrous sulfonate sulfate, concentrated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9) to obtain the title compound (yield 75.3%) as a red solid.

reactant | 3-Phenyl-6-(3-phenylpropyloxy)-1-oxo-1H-indene-2-carboxylate ethyl ester | 4.0 mmol, 1.65 g | C(C)OC(=O)C=1C(C2=CC(=CC=C2C1C1=CC=CC=C1)OCCCC1=CC=CC=C1)=O | C27H24O4
reactant | p-toluene sulfonic acid | 1.2 mmol, 228 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 160 ml | CO | CH4O
product | 3-phenyl-6-(3-phenylpropyloxy)-1-oxo-1H-indene-2-carboxylate methyl ester | yield 75.3% | COC(=O)C=1C(C2=CC(=CC=C2C1C1=CC=CC=C1)OCCCC1=CC=CC=C1)=O | C26H22O4
